datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16]([H:27])([H:28])[H:29])[c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:14]([C:13](=[C:12]([H:23])[H:24])[H:25])[H:26])([C:16]([H:27])([H:28])[H:29])[c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:5],38.4928
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[H:16])[H:9])[H:8],10.7947
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:4])[H:5],16.2758
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])=[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:18])[H:19])([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([C:6]([H:20])([H:21])[H:22])[C:7]1([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:10])([H:11])[H:12],76.358
[C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],12.9704
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:4][O:5][H:11],120.9176
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11].[O:5][O:6][H:15],119.244
[C:0]1([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]2([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]12[H:17]>>[C:0]1([H:9])([H:17])[C:1]([H:10])=[C:2]([H:11])[C:3]2([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]12,160.347616
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[C:6]([C:7]([C:8]([C:9]([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:14])([H:12])[H:13],54.4757
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:9])[H:14])([H:12])[H:13])([H:10])[H:11],87.0272
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][C:16]([H:17])([H:18])[H:19],0.0
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])(=[C:5]([H:16])[H:17])[H:7],369.162688
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([O:11][O:12])([H:18])[H:19])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:12][O:11][C:10]([C:9]([C:8]([H:13])([H:14])[H:15])([H:16])[H:17])([H:18])[H:19],85.60464
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[O:13][O:14]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][O:13][O:14],0.0
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:12][O:15][O:16][H:17],58.19944
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10]([H:11])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[O:10][H:12])([H:3])([H:4])[H:5].[H:11],183.95
